US05177087
1-Benzyl-4-(4-dimethylaminophenyl)-1,2,3,6-tetrahydropyridine dihydrochloride
A solution of 10 g of p-bromo-N,N-dimethylaniline in 100 ml of tetrahydrofuran was chilled to -78° C., followed by addition of a hexane solution containing an equimolar amount of n-butyllithium. The mixture was stirred at -78° C. for 10 minutes, after which 9.5 g of N-benzyl-4-piperidone was added. The mixture was further stirred for 1 hour. The reaction mixture was then diluted with 100 ml of saturated aqueous sodium chloride solution and the organic layer was taken. From this layer, the solvent was distilled off, and 200 ml of concentrated hydrochloric acid was added to the oily residue. The mixture was heated at 100° C. with stirring for 6 hours. Finally, the solvent was distilled off and the residue was recrystallized from methanol to give 14 g of colorless crystals melting at 229°-232° C.

reactant | p-bromo-N,N-dimethylaniline | 10 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-benzyl-4-piperidone | 9.5 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-(4-dimethylaminophenyl)-1,2,3,6-tetrahydropyridine dihydrochloride | 14 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=C(C=C1)N(C)C | InChI=1S/C20H24N2.2ClH/c1-21(2)20-10-8-18(9-11-20)19-12-14-22(15-13-19)16-17-6-4-3-5-7-17;;/h3-12H,13-16H2,1-2H3;2*1H
